US06518260B1
2.3. N-[2-[[(1-Amino-2-phenylethyl)hydroxyphosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-alanine hydrobromide
To a solution of 50 mg (0.09 mmol) of N-[2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-alanine in 2.5 ml of dichloromethane, cooled to −10° C., is added, under nitrogen, 0.45 ml of boron tribromide as a 1M solution in dichloromethane (0.45 mmol). The mixture is stirred for one hour at −10° C. and then for two hours at a temperature in the region of 20° C. 3 ml of water are added and the dichloromethane is evaporated off. The aqueous phase is washed with diethyl ether and evaporated to dryness. The product is taken up in water and then freeze-dried. 45 mg of product are recovered (yield=100%).

reactant | N-[2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-alanine | 0.09 mmol, 50 mg | OP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)CC(C(=O)N[C@@H](C)C(=O)O)CC1=CC=CC=C1 | C29H33N2O7P
reactant | boron tribromide | 0.45 ml | B(Br)(Br)Br | BBr3
reactant | water | 3 ml | O | H2O
solvent | dichloromethane | 2.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.45 mmol | ClCCl | CH2Cl2
product | N-[2-[[(1-Amino-2-phenylethyl)hydroxyphosphinyl]methyl]-1-oxo-3-phenylpropyl]-L-alanine hydrobromide | yield=100% | Br.NC(CC1=CC=CC=C1)P(=O)(O)CC(C(=O)N[C@@H](C)C(=O)O)CC1=CC=CC=C1 | InChI=1S/C21H27N2O5P.BrH/c1-15(21(25)26)23-20(24)18(12-16-8-4-2-5-9-16)14-29(27,28)19(22)13-17-10-6-3-7-11-17;/h2-11,15,18-19H,12-14,22H2,1H3,(H,23,24)(H,25,26)(H,27,28);1H/t15-,18?,19?;/m0./s1
